US04946856
5-(4-Chlorophenyl)-2,4-dihydro-4-ethyl-3H-1,2,4-triazol-3-one
1-(4-chlorobenzoyl)-4-ethylsemicarbazide (23.7 g, 9.81×10-2 mole) and 1 molar aqueous NaOH (118 ml, 1.18×10-1 mole) were stirred and warmed to reflux. After refluxing 23 hours, heating was discontinued and the reaction was acidified by the dropwise addition of 1 molar aqueous hydrochloric acid (130 ml, 1.30×10-1 mole). A colorless solid formed as the reaction was acidified and, after cooling in an ice bath, this was collected by filtration. Crystallization from isopropanol gave colorless spars: 18.2 g (83%), mp 188°-189°.

reactant | 1-(4-chlorobenzoyl)-4-ethylsemicarbazide | 9.81×10-2 mole, 23.7 g | ClC1=CC=C(C(=O)NNC(=O)NCC)C=C1 | C10H12ClN3O2
reactant | NaOH | 1.18×10-1 mole, 1 molar, 118 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1.30×10-1 mole, 1 molar, 130 ml | Cl | ClH
product | 5-(4-Chlorophenyl)-2,4-dihydro-4-ethyl-3H-1,2,4-triazol-3-one | ClC1=CC=C(C=C1)C=1N(C(NN1)=O)CC | C10H10ClN3O
